* NGSPICE file created from aimc_converter_macro_active_candidate_flat.ext - technology: sky130A

.subckt aimc_converter_macro_active_candidate_flat vss vdd row_drive sar_comparator_input
+ decision_p decision_n reset eval vss_escape latch_sense_p_ext iso_tail_ext tail_ext
+ vdd_ext
X0 latch_sense_n_ext physical_preamp_n.gate latch_sense_p_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X1 vdd_ext decision_p decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X2 tail_ext eval vss_escape vss_escape sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X3 decision_p latch_sense_p_ext tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X4 vdd_ext reset decision_n vdd_ext sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X5 tail_ext latch_sense_p_ext decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X6 decision_p decision_n vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X7 tail_ext decision_p decision_n vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X8 latch_sense_p_ext row_drive iso_tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X9 iso_tail_ext sar_comparator_input latch_sense_p_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X10 latch_sense_p_ext row_drive latch_sense_p_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=16.32 ps=39.2 w=1.2 l=0.6
X11 decision_p reset vdd_ext vdd_ext sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X12 decision_p decision_n tail_ext vss_escape sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 vss latch_sense_p_ext 0.58074f
C1 eval latch_sense_p_ext 0.19752f
C2 vdd_ext sar_readout_12b_0.vdd 1.39936f
C3 vdd_ext tail_ext 1.9856f
C4 sar_comparator_input latch_sense_p_ext 0.04367f
C5 vdd_ext m4_51060_36440# 0.01404f
C6 vdd_ext iso_tail_ext 0.86179f
C7 vdd_ext shared_converter_mux_0.vdd 0
C8 sar_readout_12b_0.vdd sar_readout_12b_0.vss 0.49712f
C9 vdd_ext shared_converter_mux_0.mux_bus 0.00217f
C10 row_dac_10b_0.vdd row_drive 1.11462f
C11 row_drive latch_sense_p_ext 2.12718f
C12 row_dac_10b_0.vss row_drive 1.08123f
C13 reset latch_sense_p_ext 0.19529f
C14 physical_preamp_n.gate row_drive 0.12269f
C15 sar_readout_12b_0.vss iso_tail_ext 0.60045f
C16 vdd_ext shared_converter_mux_0.vss 0
C17 tail_ext eval 0.36751f
C18 vss shared_converter_mux_0.vdd 0.2816f
C19 vss shared_converter_mux_0.mux_bus 0.03132f
C20 sar_comparator_input iso_tail_ext 0.16721f
C21 row_dac_10b_0.vss row_dac_10b_0.vdd 0.78467f
C22 physical_preamp_n.gate latch_sense_p_ext 0.40781f
C23 sar_readout_12b_0.vdd row_drive 0.58157f
C24 reset tail_ext 0.17577f
C25 decision_p decision_n 2.54301f
C26 row_drive iso_tail_ext 2.39704f
C27 row_drive shared_converter_mux_0.vdd 0.00246f
C28 row_drive shared_converter_mux_0.mux_bus 0.06281f
C29 vdd_ext decision_n 3.9382f
C30 tail_ext latch_sense_p_ext 2.0919f
C31 row_drive shared_converter_mux_0.vss 0.00246f
C32 m4_51060_36440# latch_sense_p_ext 0.00822f
C33 vdd_ext decision_p 3.8282f
C34 physical_preamp_n.gate m4_51060_36440# 0.12909f
C35 iso_tail_ext latch_sense_p_ext 0.25949f
C36 vdd_ext latch_sense_n_ext 0.01216f
C37 vdd_ext m4_45060_36440# 0.01404f
C38 sar_readout_12b_0.vdd iso_tail_ext 0.27521f
C39 vdd_ext sar_readout_12b_0.vss 0.93663f
C40 row_drive vdd 0.1964f
C41 vdd_ext vss 0.19458f
C42 decision_n reset 0.31048f
C43 decision_p reset 0.376f
C44 vdd_ext eval 0
C45 shared_converter_mux_0.vdd shared_converter_mux_0.mux_bus 1.55306f
C46 vdd_ext sar_comparator_input 1.06679f
C47 vdd_ext m1_68300_3080# 0.24419f
C48 row_drive m4_45060_36440# 0.12597f
C49 decision_n latch_sense_p_ext 0.37635f
C50 vdd_ext row_drive 3.83977f
C51 shared_converter_mux_0.mux_bus shared_converter_mux_0.vss 1.56188f
C52 vdd_ext reset 4.48789f
C53 decision_p latch_sense_p_ext 0.37635f
C54 latch_sense_n_ext latch_sense_p_ext 0.13155f
C55 row_drive sar_readout_12b_0.vss 0.29433f
C56 m4_45060_36440# latch_sense_p_ext 0.052f
C57 row_drive vss 0.22445f
C58 physical_preamp_n.gate latch_sense_n_ext 0.08798f
C59 vdd_ext latch_sense_p_ext 10.0883f
C60 decision_n tail_ext 0.48065f
C61 physical_preamp_n.gate vdd_ext 0.01545f
C62 row_drive sar_comparator_input 5.22878f
C63 row_drive m1_68300_3080# 2.68328f
C64 decision_p tail_ext 0.48065f
C65 vss vss_escape 36.2394f
C66 vdd vss_escape 36.7f
C67 iso_tail_ext vss_escape 77.06784f
C68 decision_p vss_escape 16.30635f
C69 tail_ext vss_escape 0.14131p
C70 latch_sense_p_ext vss_escape 56.09965f
C71 vdd_ext vss_escape 0.25166p
C72 m4_51060_36440# vss_escape 0.11856f ; **FLOATING
C73 m4_45060_36440# vss_escape 0.09675f ; **FLOATING
C74 sar_readout_12b_0.vss vss_escape 1.33686f ; **FLOATING
C75 row_dac_10b_0.vss vss_escape 1.40333f ; **FLOATING
C76 row_dac_10b_0.vdd vss_escape 1.33457f ; **FLOATING
C77 sar_readout_12b_0.vdd vss_escape 1.77614f ; **FLOATING
C78 m1_68300_3080# vss_escape 7.89552f ; **FLOATING
C79 shared_converter_mux_0.vss vss_escape 1.39454f ; **FLOATING
C80 shared_converter_mux_0.mux_bus vss_escape 2.86922f ; **FLOATING
C81 shared_converter_mux_0.vdd vss_escape 0.95985f ; **FLOATING
C82 latch_sense_n_ext vss_escape 4.69839f
.ends

