* SPICE3 file created from aimc_converter_macro_active_candidate.ext - technology: sky130A

.subckt preamp_n_nfet source drain gate body
X0 drain gate source body sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 gate source 0.02892f
C1 gate drain 0.02459f
C2 source drain 0.03982f
C3 drain body 1.37396f
C4 source body 1.3736f
.ends

.subckt preamp_p_nfet source drain gate body
X0 drain gate source body sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 gate source 0.02892f
C1 drain source 0.03982f
C2 gate drain 0.02459f
C3 drain body 1.37396f
C4 source body 1.3736f
.ends

.subckt escaped_input_latch out_p out_n latch_sense_p latch_sense_n tail reset vdd
+ vss eval sense_p sense_n iso_tail vdd_active
X0 out_p out_n vdd_active vdd_active sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X1 vdd reset out_n vdd sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X2 tail out_p out_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X3 out_p reset vdd vdd sky130_fd_pr__pfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X4 out_p out_n tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X5 tail latch_sense_n out_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X6 tail eval vss vss sky130_fd_pr__nfet_01v8 ad=16.2 pd=17.4 as=16.2 ps=17.4 w=6 l=0.6
X7 out_p latch_sense_p tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
X8 iso_tail sense_n latch_sense_n vss sky130_fd_pr__nfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X9 vdd_active out_p out_n vdd_active sky130_fd_pr__pfet_01v8 ad=3.12 pd=7.6 as=3.36 ps=8 w=1.2 l=0.6
X10 latch_sense_p sense_p iso_tail vss sky130_fd_pr__nfet_01v8 ad=3.36 pd=8 as=3.12 ps=7.6 w=1.2 l=0.6
C0 vdd tail 0.9918f
C1 sense_p iso_tail 0.26105f
C2 out_n reset 0.31048f
C3 out_p out_n 2.54301f
C4 sense_n iso_tail 0.10725f
C5 iso_tail latch_sense_n 0.20888f
C6 iso_tail latch_sense_p 0.20888f
C7 out_n latch_sense_n 0.18428f
C8 out_n tail 0.46979f
C9 out_p reset 0.376f
C10 vdd_active out_n 3.16716f
C11 reset tail 0.16491f
C12 out_p tail 0.46979f
C13 eval tail 0.35666f
C14 vdd out_n 0.77104f
C15 out_p latch_sense_p 0.18428f
C16 sense_p latch_sense_p 0.22977f
C17 out_p vdd_active 3.06556f
C18 sense_n latch_sense_n 0.22977f
C19 tail latch_sense_n 0.0334f
C20 tail latch_sense_p 0.0334f
C21 vdd reset 4.47121f
C22 out_p vdd 0.76206f
C23 vdd_active tail 0.9938f
C24 iso_tail vss 29.23796f
C25 latch_sense_n vss 1.7693f
C26 latch_sense_p vss 1.56796f
C27 out_n vss 13.58747f
C28 tail vss 89.03816f
C29 vdd_active vss 90.11912f
C30 vdd vss 78.65506f
.ends

.subckt aimc_converter_macro_active_candidate vss vdd row_drive sar_comparator_input
+ decision_p decision_n reset eval latch_sense_p_ext iso_tail_ext tail_ext vdd_ext
+ vss_escape_uq1
Xphysical_preamp_n physical_preamp_n/source physical_preamp_n/drain physical_preamp_n/gate
+ vss_escape_uq1 preamp_n_nfet
Xphysical_preamp_p physical_preamp_p/source physical_preamp_p/drain physical_preamp_p/gate
+ vss_escape_uq1 preamp_p_nfet
Xconverter_latch_0 decision_p decision_n latch_sense_p_ext latch_sense_p_ext tail_ext
+ reset vdd_ext vss_escape_uq1 eval row_drive sar_comparator_input iso_tail_ext vdd_ext
+ escaped_input_latch
C0 vss row_drive 0.22445f
C1 shared_converter_mux_0/vdd row_drive 0.00246f
C2 row_dac_10b_0/vss row_drive 1.08123f
C3 reset latch_sense_p_ext 0.19529f
C4 decision_n latch_sense_p_ext 0.19207f
C5 vss latch_sense_p_ext 0.58074f
C6 sar_comparator_input vdd_ext 1.06679f
C7 shared_converter_mux_0/vss shared_converter_mux_0/mux_bus 1.56188f
C8 eval vdd_ext 0
C9 row_drive vdd_ext 3.74725f
C10 latch_sense_p_ext latch_sense_n_ext 0.04594f
C11 sar_readout_12b_0/vdd vdd_ext 1.39936f
C12 decision_p vdd_ext 0
C13 reset tail_ext 0.01085f
C14 decision_n tail_ext 0.01085f
C15 m4_51060_36440# vdd_ext 0.01404f
C16 latch_sense_p_ext vdd_ext 10.05596f
C17 vss shared_converter_mux_0/mux_bus 0.03132f
C18 shared_converter_mux_0/vdd shared_converter_mux_0/mux_bus 1.55306f
C19 sar_comparator_input row_drive 5.22878f
C20 sar_readout_12b_0/vdd row_drive 0.58157f
C21 vdd_ext sar_readout_12b_0/vss 0.93663f
C22 sar_comparator_input latch_sense_p_ext -0.1861f
C23 latch_sense_p_ext eval 0.19752f
C24 iso_tail_ext vdd_ext 0.86179f
C25 vdd_ext m4_45060_36440# 0.01404f
C26 latch_sense_p_ext row_drive 1.70037f
C27 vdd_ext shared_converter_mux_0/mux_bus 0.00217f
C28 latch_sense_p_ext decision_p 0.19207f
C29 m4_51060_36440# latch_sense_p_ext 0.00643f
C30 row_drive sar_readout_12b_0/vss 0.29433f
C31 sar_comparator_input iso_tail_ext 0.05996f
C32 sar_readout_12b_0/vdd sar_readout_12b_0/vss 0.49712f
C33 iso_tail_ext row_drive 2.13599f
C34 row_drive m4_45060_36440# 0.0946f
C35 tail_ext eval 0.01085f
C36 row_drive shared_converter_mux_0/mux_bus 0.06281f
C37 sar_readout_12b_0/vdd iso_tail_ext 0.27521f
C38 sar_comparator_input_uq0 latch_sense_n_ext 0.01518f
C39 decision_p tail_ext 0.01085f
C40 row_dac_10b_0/vss row_dac_10b_0/vdd 0.78467f
C41 latch_sense_p_ext iso_tail_ext -0.15827f
C42 latch_sense_p_ext m4_45060_36440# 0.05112f
C43 latch_sense_p_ext tail_ext 2.0251f
C44 vss shared_converter_mux_0/vdd 0.2816f
C45 sar_comparator_input_uq0 vdd_ext 0.0023f
C46 shared_converter_mux_0/vss vdd_ext 0
C47 iso_tail_ext sar_readout_12b_0/vss 0.60045f
C48 vdd row_drive 0.1964f
C49 m1_68300_3080# vdd_ext 0.24419f
C50 reset vdd_ext 0.01669f
C51 vss vdd_ext 0.19458f
C52 sar_comparator_input_uq0 row_drive 0.12269f
C53 shared_converter_mux_0/vdd vdd_ext 0
C54 shared_converter_mux_0/vss row_drive 0.00246f
C55 m4_51060_36440# sar_comparator_input_uq0 0.09574f
C56 m1_68300_3080# row_drive 2.68328f
C57 row_dac_10b_0/vdd row_drive 1.11462f
C58 vdd_ext latch_sense_n_ext 0.00495f
C59 sar_comparator_input_uq0 latch_sense_p_ext 0.29678f
C60 vss vss_escape_uq1 36.7f
C61 vdd vss_escape_uq1 36.7f
C62 m4_51060_36440# vss_escape_uq1 0.12404f **FLOATING
C63 m4_45060_36440# vss_escape_uq1 0.10202f **FLOATING
C64 sar_comparator_input_uq0 vss_escape_uq1 6.44808f **FLOATING
C65 m1_68300_3080# vss_escape_uq1 7.89552f **FLOATING
C66 latch_sense_n_ext vss_escape_uq1 0.36632f **FLOATING
C67 iso_tail_ext vss_escape_uq1 -1.23816f
C68 sar_comparator_input vss_escape_uq1 11.80296f
C69 latch_sense_p_ext vss_escape_uq1 34.42644f
C70 decision_n vss_escape_uq1 3.8093f
C71 eval vss_escape_uq1 0.78348f
C72 row_drive vss_escape_uq1 49.4783f
C73 vdd_ext vss_escape_uq1 40.56003f
.ends

